US04746673
Preparation of 1-(p-chlorophenyl)-3,3-dimethyl-2-butanol
A 10 ml quantity of ether solution of 4.3 g of (0.05 mole) of pivalaldehyde was added dropwise to a solution of p-chlorobenzylmagnesium chloride (0.055 mole) in 100 ml of ether with cooling and stirring. The mixture was thereafter stirred at room temperature for 1 hour and then placed into 5% aqueous solution of hydrochloride acid containing pieces of ice. After separating off the oily layer, the aqueous layer was subjected to extraction with ether. The ethereal extract and the oily layer were combined together, washed with saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and distilled to remove the solvent, affording 10.5 g of the above-identified desired compound in the form of a white solid.

reactant | pivalaldehyde | 0.05 mole, 4.3 g | C(C(C)(C)C)=O | C5H10O
reactant | p-chlorobenzylmagnesium chloride | 0.055 mole | ClC1=CC=C(C[Mg]Cl)C=C1
reactant | hydrochloride | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(p-chlorophenyl)-3,3-dimethyl-2-butanol | 10.5 g | ClC1=CC=C(C=C1)CC(C(C)(C)C)O | C12H17ClO
